US08802864B2
d) 5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-[4-(7-fluoro-1-benzofuran-5-yl)phenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one
A solution of 5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one (0.297 mmol) in dioxane (1.5 mL) was treated with 5-bromo-7-fluoro-1-benzofuran (0.297 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II)-dichloromethane adduct (17 mg), and 2M aq potassium carbonate (0.89 mmol). The reaction mixture was purged with nitrogen, sealed, and stirred at 100° C. overnight. The reaction mixture was cooled to room temperature and was diluted with water (50 mL). The aqueous layer was acidified to pH˜4 using 1N aq HCl and was extracted with dichloromethane. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude residue was purified by reverse phase HPLC (20-50% acetonitrile/water+0.1% NH4OH) to afford the title compound as a beige solid (47%). MS(ES)+ m/e 447.1 [M+H]+.

reactant | 5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.297 mmol | C1(CC1)C(=O)N1C[C@@H](CC1)CC=1N(C(NN1)=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C23H31BN4O4
reactant | 5-bromo-7-fluoro-1-benzofuran | 0.297 mmol | BrC=1C=C(C2=C(C=CO2)C1)F | C8H4BrFO
reactant | potassium carbonate | 0.89 mmol, 2M | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane | 17 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
product | 5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-[4-(7-fluoro-1-benzofuran-5-yl)phenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one | 47% | C1(CC1)C(=O)N1C[C@@H](CC1)CC=1N(C(NN1)=O)C1=CC=C(C=C1)C=1C=C(C2=C(C=CO2)C1)F | C25H23FN4O3
